* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.013871689440707184
Fd1_1 0 s1 V1 -0.6935844720353592
Gr1_1_1 0 s1 x1_a1 0 18787628517.589134
Gr2_1_1 0 s1 x2_a1 0 38840727926.94808
Gr3_1_1 0 s1 x3_a1 0 14993375579.948778
Gd1_2 0 s1 p2 0 0.0020754507310047957
Fd1_2 0 s1 V2 0.10377253655023978
Gr1_1_2 0 s1 x1_a2 0 30784024573.181046
Gr2_1_2 0 s1 x2_a2 0 -4823535006.427951
Gr3_1_2 0 s1 x3_a2 0 -3390515324.8968763
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.5272085411626474e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.871983076266237e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.8154368601820183e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0009917804179242309
Fd2_1 0 s2 V1 0.04958902089621155
Gr1_2_1 0 s2 x1_a1 0 156126376080.7535
Gr2_2_1 0 s2 x2_a1 0 -58032709495.46888
Gr3_2_1 0 s2 x3_a1 0 -44951715743.463524
Gd2_2 0 s2 p2 0 -0.013967935725246012
Fd2_2 0 s2 V2 -0.6983967862623006
Gr1_2_2 0 s2 x1_a2 0 144095739695.51233
Gr2_2_2 0 s2 x2_a2 0 4736741593.074313
Gr3_2_2 0 s2 x3_a2 0 12836864690.385454
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.5272085411626474e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.871983076266237e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.8154368601820183e-11
.ENDS s_equivalent
