* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.04517154715157911
Fd1_1 0 s1 V1 -2.2585773575789556
Gr1_1_1 0 s1 x1_a1 0 2.5705593295248105e+32
Gr2_1_1 0 s1 x2_a1 0 6.049800956285531e+17
Gr3_1_1 0 s1 x3_a1 0 1054621594936.9937
Gr4_re_1_1 0 s1 x4_re_a1 0 -2334164235722882.0
Gr4_im_1_1 0 s1 x4_im_a1 0 -7600381881.1209
Gr5_re_1_1 0 s1 x5_re_a1 0 11006544810203.984
Gr5_im_1_1 0 s1 x5_im_a1 0 -3061904461.9461575
Gr6_re_1_1 0 s1 x6_re_a1 0 1071698875432.3568
Gr6_im_1_1 0 s1 x6_im_a1 0 -734985034.1603656
Gd1_2 0 s1 p2 0 -0.04478410333328802
Fd1_2 0 s1 V2 -2.239205166664401
Gr1_1_2 0 s1 x1_a2 0 2.0609235117269553e+32
Gr2_1_2 0 s1 x2_a2 0 -8.540259699329151e+17
Gr3_1_2 0 s1 x3_a2 0 953660362680.458
Gr4_re_1_2 0 s1 x4_re_a2 0 -2110709583354639.0
Gr4_im_1_2 0 s1 x4_im_a2 0 -6872780684.461402
Gr5_re_1_2 0 s1 x5_re_a2 0 9952864179381.562
Gr5_im_1_2 0 s1 x5_im_a2 0 -2768781644.512114
Gr6_re_1_2 0 s1 x6_re_a2 0 969102795864.286
Gr6_im_1_2 0 s1 x6_im_a2 0 -664623307.769993
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.112557132077767e-33
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.9738030841122534e-20
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 0.00022729635333311297
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 852.1510289830501
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 62.85460165888177
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -62.85460165888177
Rp4_im_im_a1 0 x4_im_a1 852.1510289830501
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 186.63026402613485
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 25.321711320759867
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -25.321711320759867
Rp5_im_im_a1 0 x5_im_a1 186.63026402613485
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 244.30143900689333
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 6.078267241911375
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -6.078267241911375
Rp6_im_im_a1 0 x6_im_a1 244.30143900689333
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.04478410333328802
Fd2_1 0 s2 V1 -2.239205166664401
Gr1_2_1 0 s2 x1_a1 0 2.0609235117492824e+32
Gr2_2_1 0 s2 x2_a1 0 -8.540259879985434e+17
Gr3_2_1 0 s2 x3_a1 0 953660363191.8619
Gr4_re_2_1 0 s2 x4_re_a1 0 -2110709584486513.2
Gr4_im_2_1 0 s2 x4_im_a1 0 -6872780688.146952
Gr5_re_2_1 0 s2 x5_re_a1 0 9952864184718.822
Gr5_im_2_1 0 s2 x5_im_a1 0 -2768781645.996883
Gr6_re_2_1 0 s2 x6_re_a1 0 969102796383.9688
Gr6_im_2_1 0 s2 x6_im_a1 0 -664623308.1263998
Gd2_2 0 s2 p2 0 -0.03614310490671039
Fd2_2 0 s2 V2 -1.8071552453355195
Gr1_2_2 0 s2 x1_a2 0 2.1550786676145085e+32
Gr2_2_2 0 s2 x2_a2 0 7.771511227474767e+17
Gr3_2_2 0 s2 x3_a2 0 862364366988.5405
Gr4_re_2_2 0 s2 x4_re_a2 0 -1908646735080492.8
Gr4_im_2_2 0 s2 x4_im_a2 0 -6214834346.595896
Gr5_re_2_2 0 s2 x5_re_a2 0 9000054706950.389
Gr5_im_2_2 0 s2 x5_im_a2 0 -2503720117.4544616
Gr6_re_2_2 0 s2 x6_re_a2 0 876328464072.246
Gr6_im_2_2 0 s2 x6_im_a2 0 -600997463.80891
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.112557132077767e-33
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.9738030841122534e-20
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 0.00022729635333311297
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 852.1510289830501
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 62.85460165888177
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -62.85460165888177
Rp4_im_im_a2 0 x4_im_a2 852.1510289830501
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 186.63026402613485
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 25.321711320759867
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -25.321711320759867
Rp5_im_im_a2 0 x5_im_a2 186.63026402613485
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 244.30143900689333
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 6.078267241911375
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -6.078267241911375
Rp6_im_im_a2 0 x6_im_a2 244.30143900689333
.ENDS s_equivalent
